US07081465B2
A mixture of (4-methoxyphenyl)-(3-(naphthalen-2-yloxy)propyl)amine (0.5 gm, 0.002 mole) and ethyl bromoacetate (0.62 ml, 0.003 mole) was taken in dry acetone (40 ml). It was refluxed for 10 hrs and the progress of reaction checked by TLC. Reaction mixture was filtered and the filtrate was concentrated to get the oily compound {N-(4-methoxy phenyl)-(3-(naphthalen-2-yloxy)propyl)amino}acetic acid ethyl ester, oil (yield 0.75 ml, 96%).

reactant | (4-methoxyphenyl)-(3-(naphthalen-2-yloxy)propyl)amine | 0.002 mole, 0.5 gm | COC1=CC=C(C=C1)NCCCOC1=CC2=CC=CC=C2C=C1 | C20H21NO2
reactant | ethyl bromoacetate | 0.003 mole, 0.62 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | {N-(4-methoxy phenyl)-(3-(naphthalen-2-yloxy)propyl)amino}acetic acid ethyl ester | C(C)OC(CN(C1=CC=C(C=C1)OC)CCCOC1=CC2=CC=CC=C2C=C1)=O | C24H27NO4
